US07700623B2
To an N-methyl-2-pyrrolidone (5 mL) solution of 0.23 g of N-(tert-butoxycarbonyl)-L-leucine monohydrate was added 0.34 g of 1,1′-carbonyldiimidazole at room temperature, which was then stirred at the same temperature for 1 hour and 30 minutes. An N-methyl-2-pyrrolidone (5 mL) solution of 0.20 g of 4-{3-[4-(3-{4-[amino(hydroxyimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamide=oxime was added to the mixture at room temperature, which was then stirred at the same temperature for 5 hours. The reaction mixture was added to a mixture of ethyl acetate and water. The organic layer was separated, washed with a saturated sodium chloride aqueous solution, and then dried with anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The resultant residue was purified using silica gel column chromatography (eluent; chloroform:methanol=10:1) to provide 0.14 g of 4-(3-{4-[3-(4-{amino[(2S)-2-(tert-butoxycarbonyl)amino-4-methylpentanoyloxyimino]methyl}phenoxy)propyl]-1-piperidinyl}propoxy)benzamide=O-[(2S)-2 (tert-butoxycarbonyl)amino-4-methylpentanoyl]oxime as white solid form.

reactant | N-methyl-2-pyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
reactant | N-(tert-butoxycarbonyl)-L-leucine monohydrate | 0.23 g | O.C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O
reactant | 1,1′-carbonyldiimidazole | 0.34 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-methyl-2-pyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
reactant | 4-{3-[4-(3-{4-[amino(hydroxyimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamide | 0.20 g | NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=O)N)C=C2)C=C1)=NO | C25H34N4O4
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-{4-[3-(4-{amino[(2S)-2-(tert-butoxycarbonyl)amino-4-methylpentanoyloxyimino]methyl}phenoxy)propyl]-1-piperidinyl}propoxy)benzamide | 0.14 g | NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=O)N)C=C2)C=C1)=NOC([C@H](CC(C)C)NC(=O)OC(C)(C)C)=O | C36H53N5O7
